Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sudafed / Banzel
 
Attending: ___.
 
Chief Complaint:
Increased seizure frequency.
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Ms. ___ is a ___ woman with long-standing Hx of 
refractory partial-complex epilepsy, thought to be ___ childhood 
meningitis, as detailed below (see PMH/meds below for semiology, 
AEDs, etc.). Baseline seizure frequency is occasional ___ 
seizures with several-to-10 days seizure-free in-between 
clusters (with a catamenial component by history).
 
1d PTA (___), she had 3x typical events, with ~30sec 
staring/non-responsiveness/stiffening bilaterally/head to left, 
followed by storming into the bathroom and q5-10min frequent 
urination over the next hour or so. ___, NP was called 
and agreed with giving her home PRN Ativan 1mg PO after the 
third episode (see note in OMR). Pt. slept from ~10pm until 
~3am. Dr. ___ was called, and suggested increasing LZP frequency 
from bid 0.5mg to tid (see note in OMR). She was up on the 
couch, no seizures, and then left the house with caretakers for 
lunch around noon.
 
Then, she had an episode, the first of the day (___) in the 
car on the way home. Then, ___ more typical episodes at home, 
coming as frequently as q5min, with no resolution of the 
post-ictal state in-between. EMS was called after the first 3 
episodes and left for OSH; the episodes stopped after 2mg IV 
given in the ambulance. Taken to ___ by ~6pm. VS 
normal except for mild tachycardia. Had 3x more events at OSH 
ED, terminated by Ativan 2mg IV (second dose of the day, 
following the one from EMS). They also gave all but  ECG, Labs, 
S/Utox, UA, exam unremarkable except for mild hypoNa/Cl (as 
excpected with Trileptal). CXR and NCHCT reportedly unremarkable 
(NCHCT from OSH will be uploaded in our system for review 
shortly). Transferred to ___ and Neurology c/s called at 
around midnight.
 
There have been recent social stressors, moving from group home 
to ___, with pt in ED) home in late ___. 
There are no recent constitutional symptoms (see ROS below for 
details); the last notable event in this regard was Dx of otitis 
externa in late ___, Tx with ear gtt (fluocinolone). OSH 
exam noted cerumen-obscured/impacted bilateral ___. Care 
provider (___) also notes stereotypical q5-10min urinary 
frequency for an hour or so after each typical seizure event at 
home, but this seems episodic and the patient has had no c/o 
dysuria, frequency, etc. outside the post-ictal context. ___, 
on exam, denies current SOB/pain/cough/ear pain/HA/abd pain, and 
appears
comfortable.
  
Recent AED/VNS changes include: VNS interrogated 2wk ago on 
___, with output current increased slightly (2.25 to 2.50). 
Vimpat increased from 75 to 100mg bid ___ per day). Ativan 
was at 0.5mg bid, recommended increase to 0.5mg tid yesterday 
(Dr. ___, but it sounds like the pt was already seizing more 
and brought to the ED before this change could be instituted at 
home. 
  
ROS (largely from care provider, ___ patient somnolent) 
negative for recent c/o headache, vis changes, 
dysarthria/dysphagia/change in speech or comprehension, 
lightheadedness, vertigo, weakness, numbness, change in gait. No 
bowel or incontinence; bladder incontinence as above, but no c/o 
dysuria or foul-smelling urine (and UA at OSH was 
normal/unremarkable, just trace blood and
dilute / low SpGrav). No rash.
 
Past Medical History:
1. Epilepsy - since meningitis at ___ of age.  She has a 
     strong catamenial component to her epilepsy.  Three 
     recognized seizure types:
 - "Bolting" type of seizure (described above, initially a non
     responsive / staring spell with "stiffening" for ___,
     after which where she walks quickly and pushes others out
     of the way if restrained. Retreats to the bathroom,
     confused/post-ictal for a minute or two afterwards;
     urinates frquently (q5-10min) for a while after this.
 -  Bolting can be followed by drop seizures, althought the
     drops are rarely witnessed, but often associated with
     injury to her face.
 -  The drop seizures are often followed by a tonic extensor 
      type of seizure with vocalization.
 
2. s/p VNS implanted ___.
Model 102, SN ___.
Her VNS was last interrogated / updated on ___, with the
following results / settings:
Diagnostics: system-ok/ok/ok/2; normal mode-ok/ok/ok/5; EOS-no
Side effects- none reported
Parameters:
output current - 2.5 (increased from 2.25)
signal freq - 20
pulse width - 250
on time - 14 secs
off time - 1.1 min
magnet: 
 output current - 2.5 (increased from 2.25)
 on time - 30 secs
 pulse width - 250
  
3. Mental retardation - also thought to be ___ childhood
meningitis. Reportedly at cognitive level of ___. Unclear
whether she's ever had formal neuropsych testing. ___ 
(caregiver)
says she "finished grade school, then entered special school" 
and
subsequently lived in group home for developmentally impaired
adults until recently.
 
4.  PTSD - sexually assaulted at age ___ after being kidnapped 
from
a playground. Currently on Celexa 60mg daily.
 
Social History:
___
Family History:
No known h/o epilepsy or other neurologic diseases.
 
Physical Exam:
Vitals:
T: afebrile (99.3F at OSH)
BP: 144/94 OSH --> 112/66 here at ___ ED
P: 112 OSH --> ___ here at ___ ED
R: ___
SaO2: 95-96% on RA
 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus, MMM, no lesions noted in
oropharynx.
Neck: Supple. No nuchal rigidity.
Pulmonary: Lungs CTA bilaterally without R/R/W.
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: obese. soft, NT/ND, normoactive bowel sounds, no masses
or organomegaly noted.
Extremities: WWP. No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Somnolent (s/p Ativan 2mg twice today), and only
intermittently following commands. Opens eyes briefly to loud
voice. Follows commands. Inattentive. Occasional one-word
answers. At one point says, "what are we doing here?" then goes
back to sleep.
 
-Cranial Nerves:
I: Olfaction not tested.
II: PERRL, dilated 6mm to 4mm bilaterally. VFF testing cannot be
performed yet. Fundoscopic exam deferred (pt resists 
eye-opening)
III, IV, VI: EOMs grossly intact; no nystagmus at mid-position.  

V: Facial sensation grossly intact to light touch.
VII: No facial droop at rest; pt does not smile; grimaces left
NLF down more than Right on awakening.
VIII: unable to test.
IX, X: pt does not open mouth wide enough to visualize palate.
XI: unable to test.
XII: Tongue protrudes in midline.
 
-Motor: Normal bulk, tone throughout. Both arms drift after they
are lifted, but this appears to be related to lack of effort
(somnolence). No adventitious movements, such as tremor or
fasciculations or asterixis, were observed.
Patient moves all four extremities on command, lifts arms 
briefly
anti-gravity.
IPs are full bilaterally; rest of motor exam limited by poor
participation.
 
-Sensory: No gross deficit to light touch or cold sensation
(tuning fork) bilaterally, but exam limited by poor 
participation
/ somnolence.
 
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    ___ beats of ankle-clonus bilaterally (none with simple reflex
testing)
- Plantar responses were hard to guage ___ strong
withdrawal/fighting exam by lethargic patient; they appeared
down-going bilaterally.
 
-Coordination & Gait: deferred until patient is awake enough to
participate in exam
 
Pertinent Results:
___ 07:30AM BLOOD WBC-5.4 RBC-4.25 Hgb-13.0 Hct-37.6 MCV-89 
MCH-30.5 MCHC-34.5 RDW-12.7 Plt ___
___ 07:30AM BLOOD Plt ___
___ 07:30AM BLOOD Glucose-84 UreaN-10 Creat-0.6 Na-136 
K-4.2 Cl-97 HCO3-29 AnGap-14
___ 07:30AM BLOOD ALT-30 AST-23 CK(CPK)-54 AlkPhos-85 
TotBili-0.4
___ 07:30AM BLOOD CK-MB-1 cTropnT-<0.01
___ 07:30AM BLOOD Albumin-4.4 Calcium-9.1 Phos-3.4 Mg-2.3
___ 07:30AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:43AM URINE Color-Yellow Appear-Clear Sp ___
___ 08:43AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 08:43AM URINE RBC-0 ___ Bacteri-OCC Yeast-NONE 
___
  
EEG from ___ pending):
This is an abnormal video-EEG study because of continuous 
focal slowing and abundant epileptiform discharges in the left 
temporal 
region, indicative of a potentially epileptogenic focal 
structural 
lesion in this region. There were also rare independent right 
temporal 
epileptiform discharges, indicative of a potentially 
epileptogenic 
region in this temporal lobe as well. There were multiple sitter 

pushbutton events as described above, which did not clinically 
appear to 
be seizures. Her EEG was unchanged from baseline during these 
epochs. 
 
CXR 
Left-sided stimulator device is seen projecting over the left 
chest. The cardiac silhouette is within normal limits. Lungs are 
clear. 
 
Brief Hospital Course:
Mrs. ___, despite increased seizure frequency at home, did 
not have any seizures during the admission. Vimpat was increased 
and she denies any side-effects. Other medication doses remained 
the same. EEG monitoring during the admission revealed 
mild/moderate diffuse background slowing, continuous focal 
slowing and abundant epileptiform discharges in the left 
temporal region, with rarer independent right temporal spikes. 
There were no electrographic seizures. There were multiple 
observer pushbutton events, but it is not clear why the event 
button was activated. None of these episodes had any ictal EEG 
change.
 
Medications on Admission:
CURRENT AEDs:
1. LACOSAMIDE [VIMPAT] 100mg bid
2. LEVETIRACETAM [KEPPRA] 1500mg bid
3. LORAZEPAM 0.5mg tid (increased 1d PTA from 0.5mg bid)
4. LORAZEPAM 1.0mg PRN for >2sz/24h or >3sz/72h
5. OXCARBAZEPINE [TRILEPTAL] 750 mg bid
6. PREGABALIN [LYRICA] 200mg bid
  
Non-AED Medications:
1. CITALOPRAM [CELEXA] 60mg daily
2. FOLIC ACID 1 mg daily 
3. LODINE -  (Prescribed by Other Provider) - 400 mg Tablet - 1
Tablet(s) by mouth in the morning as needed for prn menstrual
cramps
4. ACETAMINOPHEN [TYLENOL] -  (Prescribed by Other Provider) -
325 mg Tablet - ___ Tablet(s) by mouth  as needed for every 4
hours as needed headache or fever  over 101
5. CALCIUM POLYCARBOPHIL [FIBERCON] -  (Prescribed by Other
Provider) - 625 mg Tablet - 2 Tablet(s) by mouth daily
6. IBUPROFEN [ADVIL] -  (Prescribed by Other Provider) - 200 mg
Tablet - 4 Tablet(s) by mouth  as needed for every 8 hours prn
swelling or pain from falls
7. PNV CMB#21-IRON-FOLIC ACID [PRENATAL COMPLETE] - 14 mg-400 
mcg
Tablet - 1 Tablet(s) by mouth once a day 
 
Discharge Medications:
1. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).
Disp:*90 Tablet(s)* Refills:*2*
2. levetiracetam 500 mg Tablet Sig: Three (3) Tablet PO BID (2 
times a day).
Disp:*180 Tablet(s)* Refills:*2*
3. pregabalin 200 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*0*
4. citalopram 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).
Disp:*90 Tablet(s)* Refills:*0*
5. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
as needed for home med.  
6. acetaminophen 325 mg Tablet Sig: ___ Tablets PO every four 
(4) hours as needed for pain.  
7. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. lacosamide 50 mg Tablet Sig: Three (3) Tablet PO bid ().
Disp:*90 Tablet(s)* Refills:*2*
9. lorazepam 1 mg Tablet Sig: One (1) Tablet PO PRN for clusters 
of greater than three seizures in one hour, seizures lasting 
more than five minutes or if two seizures in 24 hours or three 
in 72 hours.
Disp:*30 Tablet(s)* Refills:*0*
10. Trileptal 600 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*2*
11. Trileptal 150 mg Tablet Sig: One (1) Tablet PO twice a day: 
With 600 mg, for total dose of 750 mg twice per day.
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary
Epilepsy, secondary to prior meningitis
 
Secondary
Pervasive developmental delay, secondary to early meningitis
 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You came to the hospital with increased seizure frequency. You 
were monitored while your medications were adjusted. Seizure 
control was good with your new medication regimen, so it was 
safe for you to return home again. 
 
Followup Instructions:
___